US07435837B2
Treatment of (±)-(4-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (1.36 g, 3.57 mmol) with sodium azide (0.929 g, 14.29 mmol) generally according to the procedure described for intermediate 98 afforded (±)-(4-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl azide. The azide was dissolved in ethanol (50 mL) and palladium on carbon (0.083 g, 10 wt. %) was added and the reaction mixture was shaken under an H2 atmosphere (50 psi) for 6 h. The reaction mixture was filtered (celite) and the solvent removed in vacuo to provide a colorless oil. The oil was re-dissolved in isopropanol (3 mL) and hydrogen chloride (1.0 N in diethyl ether, 10.0 mL) was added. The resulting precipitate was filtered, washed (diethyl ether), and dried to afford 0.700 g (94%) of (±)-1-(4-phenyl-2,3-dihydro-1-benzofuran-2-yl)methanamine as a white solid, hydrochloride salt. mp 229-230° C.; Anal. calcd. for C15H15NOHCl: C, 68.83; H, 6.16; N, 5.35. Found: C, 66.11; H, 6.25; N, 5.02.

reactant | (±)-(4-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 3.57 mmol, 1.36 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2)C2=CC=CC=C2 | C22H20O4S
reactant | sodium azide | 14.29 mmol, 0.929 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-(4-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl azide | C1(=CC=CC=C1)C1=CC=CC2=C1CC(O2)CN=[N+]=[N-] | C15H13N3O
reactant | azide | [N-]=[N+]=[N-]
reactant | hydrogen chloride | 1.0 N, 10.0 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.083 g | [Pd] | Pd
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | (±)-1-(4-phenyl-2,3-dihydro-1-benzofuran-2-yl)methanamine | 0.700 g, 94% | C1(=CC=CC=C1)C1=CC=CC2=C1CC(O2)CN | C15H15NO
